US07652049B2
To a solution of (1S,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)propan-1-ol (135.5 mg, 0.228 mmol) in CH2Cl2 (5 mL) was added BOC2O (49.7 mg, 0.228 mmol). The reaction was stirred at room temperature for 2 days; during this time, 2 additional portions of BOC2O (25 mg each) were added. After 2 days, the reaction was concentrated, and the residue was purified by flash chromatography with 20% EtOAc/hexanes to afford tert-butyl{(1S,2S)-2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.41 (40% EtOAc/hexanes). LCMS=594.2 (M+1−BOC)+.

reactant | (1S,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)propan-1-ol | 0.228 mmol, 135.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]([C@H](C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)O)(F)F | C29H28F9NO2
reactant | BOC2O | 0.228 mmol, 49.7 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | BOC2O | 25 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl{(1S,2S)-2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)[C@H]([C@@H](O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C)=O | C34H36F9NO4
